** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelUp.sch
.subckt sg13g2_LevelUp iovdd vss in out vdd sub
*.PININFO iovdd:B vss:B out:B in:B vdd:B sub:B
R1 vss sub ptap1 A=0.9135p P=6.69u
M1 net1 net3 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
M3 net1 net2 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
M4 net2 net1 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
M5 out net2 iovdd iovdd sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1
M2 net2 in vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
M6 out net2 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
M7 net3 in vss sub sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
M8 net3 in vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
.ends
